US05049544
Into a 500 ml round bottom flask 30 g of 2-cyclohexylpropionic acid and 200 ml of ether were charged and cooled to 0° C. After 100 g of isobutene gas was introduced, 0.5 g of sulfuric acid was charged into the mixture, the mixture was then stirred at 0° C. for 40 hours. The reaction mixture was washed with water and distilled under reduced pressure to obtain 4.5 g of tert-butyl 2-cyclohexylpropionate having a woody and floral odor (yield: 11%, purity: 98.7%).

reactant | 2-cyclohexylpropionic acid | 30 g | C1(CCCCC1)C(C(=O)O)C | C9H16O2
reactant | isobutene | 100 g | C=C(C)C | C4H8
reactant | sulfuric acid | 0.5 g | S(O)(O)(=O)=O | H2O4S
solvent | ether | 200 ml | CCOCC | C4H10O
product | tert-butyl 2-cyclohexylpropionate | 4.5 g, yield: 11% | C1(CCCCC1)C(C(=O)OC(C)(C)C)C | C13H24O2
